US08076325B2
Step 1: 8,8-Diethoxy-2,3-dimethoxybicyclo[4.2.0]octa-1,3,5-triene
24 g (107 mmol) of bromoveratrol is poured onto 8.4 g (215 mmol)/2 eq.) of sodium amide in 10 mL of toluene, followed by 25 g (215 mmol/2 eq.) of 1,1diethoxyethylene. Heating is carried out at 80° C. for 4 hours 30 minutes; cooling to −10° C. is carried out and 50 mL of water and then 50 mL of toluene are poured in. The phases are separated and the aqueous phase is extracted again with toluene. The combined toluene phases are washed with water to neutral pH and are then concentrated. The residue is chromatographed over 600 g of silica (eluant: dichloromethane) to yield the desired product.

reactant | bromoveratrol | 107 mmol, 24 g | BrCOC=1C(=CC=CC1)OC | C8H9BrO2
reactant | sodium amide | [NH2-].[Na+]
reactant | 1,1diethoxyethylene | 215 mmol, 25 g, 2 eq. | C(C)OC(=C)OCC | C6H12O2
reactant | water | 50 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 8,8-Diethoxy-2,3-dimethoxybicyclo[4.2.0]octa-1,3,5-triene | C(C)OC1(CC2=CC=C(C(=C12)OC)OC)OCC | C14H20O4
